US05089621
To a solution of 2,3-bis (bromomethyl)-1,3-butadiene (4.8 g) and methylenediurethane (3.9 g) in dichloroethane (40 ml), borontrifluoride etherate (0.3 ml) was added. The reaction mixture was refluxed for 10 hours and washed with 10% sodium bicarbonate solution (30 ml×3). The organic phase was filtered though silicagel and evaporation of the solvent to give 1-carboethoxy-4,5-bis(bromomethyl)-1,2,3,6-tetrahydropyridine (6.14 g, yield 90%) which was cyclized with 40% methylamine (1.8 ml) and potassium carbonate (15 g) in acetonitrile (50 ml) for 2 hours at room temperature. The solid was filtered off and the filtrate was purified by silicagel column chromatography to give 3-carboethoxy-8-methyl-3,8-diazabicyclo[4.3.0]non-1(6)-ene (2.57 g, yield 68%). This amine was refluxed in 20% hydrochloric acid (50 ml) and evaporation gave the title compound (1.35 g, yield 80%).

reactant | 2,3-bis (bromomethyl)-1,3-butadiene | 4.8 g | BrCC(=C)C(=C)CBr | C6H8Br2
reactant | methylenediurethane | 3.9 g | C(NC(=O)OCC)NC(=O)OCC | C7H14N2O4
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
solvent | borontrifluoride etherate | 0.3 ml | B(F)(F)F.CCOCC
product | 1-carboethoxy-4,5-bis(bromomethyl)-1,2,3,6-tetrahydropyridine | 6.14 g, yield 90% | C(=O)(OCC)N1CCC(=C(C1)CBr)CBr | C10H15Br2NO2
